US07919519B2
To a solution of 1-benzofuran-5-carbaldehyde (2.70 g, 18.5 mmol) in 50 mL THF under N2 was added phenylmagnesium bromide 3.0M solution in diethyl ether (7.39 mL, 22.2 mmol). The reaction was allowed to stir for 1 h, then was quenched with NH4Cl sat'd aq., extracted with diethyl ether, washed with brine, dried over anhyd. sodium sulfate, filtered, and concentrated in vacuo to a solid to give benzofuran-5-yl(phenyl)methanol which was used without further purification. 1H NMR (400 MHz, DMSO-d6) δ ppm 7.94 (d, J=2.0 Hz, 1H), δ 7.64 (s, 1H), 7.49 (d, J=8.5 Hz, 1H), 7.36-7.42 (m, 2H), 7.26-7.33 (m, 3H), 7.19 (t, J=7.3 Hz, 1H), 6.92 (d, J=1.5 Hz, 1H), 5.88 (d, J=4.0 Hz, 1H), 5.77-5.83 (m, 1H).

reactant | 1-benzofuran-5-carbaldehyde | 18.5 mmol, 2.70 g | O1C=CC2=C1C=CC(=C2)C=O | C9H6O2
reactant | phenylmagnesium bromide | 3.0M | C1(=CC=CC=C1)[Mg]Br
reactant | diethyl ether | 22.2 mmol, 7.39 mL | C(C)OCC | C4H10O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | benzofuran-5-yl(phenyl)methanol | O1C=CC2=C1C=CC(=C2)C(O)C2=CC=CC=C2 | C15H12O2
